US04250186
A mixture of 10 gm of 2-(5-chloro-2,4-dimethoxy-phenylimino)-imidazolidine (0.03 mol) and 150 ml of 48% hydrobromic acid was refluxed for six hours. Thereafter, the clear, homogeneous reaction mixture was allowed to stand overnight in the refrigerator. The crystalline precipitate which had formed was collected by suction filtration, washed with ether and dried, yielding 5.6 gm (60.5% of theory) of 2-(5-chloro-2,4-dihydroxy-phenylimino)-imidazolidine hydrobromide, Rf -value 0.5 in mobile phase 75 parts sec.butanol, 15 parts formic acid, 10 parts water. Carrier: silicagel; visualization: potassium iodoplatinate.

reactant | 2-(5-chloro-2,4-dimethoxy-phenylimino)-imidazolidine | 0.03 mol, 10 gm | ClC=1C(=CC(=C(C1)N=C1NCCN1)OC)OC | C11H14ClN3O2
reactant | hydrobromic acid | 150 ml | Br | BrH
product | 2-(5-chloro-2,4-dihydroxy-phenylimino)-imidazolidine hydrobromide | 5.6 gm, 60.5% | Br.ClC=1C(=CC(=C(C1)N=C1NCCN1)O)O | InChI=1S/C9H10ClN3O2.BrH/c10-5-3-6(8(15)4-7(5)14)13-9-11-1-2-12-9;/h3-4,14-15H,1-2H2,(H2,11,12,13);1H
